US08283353B2
4′-({5-oxo-4-[4-(2-oxopropoxy)cyclohexyl]-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile
A mixture of 4′-({5-oxo-4-[4-(prop-2-en-1-yloxy)cyclohexyl]-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile (1.8 g), osmium oxide (7% immobilized catalyst, 0.92 g), sodium periodate (3.9 g), acetone (20 mL), acetonitrile (20 mL) and water (20 mL) was stirred at room temperature for 3 hr. The reaction mixture was diluted with ethyl acetate and water, and the insoluble material was filtered off through celite. The obtained organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue obtained by silica gel chromatography was dissolved in tetrahydrofuran (20 mL), and methylmagnesium bromide (1.0 M tetrahydrofuran solution, 1.9 mL) was added at −78° C. The reaction mixture was warmed to 0° C., and stirred for 16 hr. Saturated aqueous ammonium chloride solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The obtained ethyl acetate layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue obtained by silica gel chromatography was dissolved in acetonitrile (15 mL), 1,1,1-triacetoxy-1,1-dihydro-1,2-benziodoxol-3(1H)-on (0.3 g) was added, and the mixture was stirred at room temperature for 3 hr. Saturated aqueous sodium hydrogen carbonate solution and sodium thiosulfate were added to the reaction mixture, and the mixture was stirred at room temperature for 2 hr, and extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to give the title compound as a colorless solid (0.17 g, 68%).

reactant | 4′-({5-oxo-4-[4-(prop-2-en-1-yloxy)cyclohexyl]-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile | 1.8 g | O=C1N(C=2N(C(=C1CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2)C2CCC(CC2)OCC=C | C31H33N5O2
reactant | sodium periodate | 3.9 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | methylmagnesium bromide | 1.0 M, 1.9 mL | C[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
catalyst | osmium oxide | 0.92 g | [Os]=O
solvent | water | 20 mL | O | H2O
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | acetone | 20 mL | CC(=O)C | C3H6O
product | 4′-({5-oxo-4-[4-(2-oxopropoxy)cyclohexyl]-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile | 0.17 g, 68% | O=C1N(C=2N(C(=C1CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2)C2CCC(CC2)OCC(C)=O | C31H33N5O3
